US09079911B2
Crude tert-butyl (((tert-butoxycarbonyl)imino)(5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methyl)carbamate was dissolved in dioxin (8 mL) and TFA (3 mL) was added and the reaction was stirred at room temperature overnight to form crude 5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboximidamide (214 mg) as a TFA salt which was used directly in Step C.

reactant | tert-butyl (((tert-butoxycarbonyl)imino)(5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)methyl)carbamate | C(C)(C)(C)OC(=O)N=C(N1CC2CN(CC2C1)C(C1=C(C=CC=C1N1N=CC=N1)F)=O)NC(OC(C)(C)C)=O | C26H34FN7O5
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxin | 8 mL | O1C=COC=C1 | C4H4O2
product | 5-(2-fluoro-6-(2H-1,2,3-triazol-2-yl)benzoyl)hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboximidamide | 214 mg | FC1=C(C(=O)N2CC3C(C2)CN(C3)C(N)=N)C(=CC=C1)N1N=CC=N1 | C16H18FN7O
